US07994316B2
Under a stream of argon, 5.3 ml of a pentane solution containing 7.8 mmol of tert-butyl lithium was slowly added to 25 ml of tetrahydrofuran cooled to −78° C., and 15 ml of tetrahydrofuran in which 1.13 g of 2-bromo-5-(4-tert-butylphenyl)pyridine had been dissolved was further added dropwise to this solution. After stirring at −78° C. for 30 minutes, 2.47 g of dichloro(tetramethylethylenediamine)zinc(II) was added thereto and stirred at −78° C. for 10 minutes and then at room temperature for 2 hours. A 50 ml portion of tetrahydrofuran prepared by dissolving 1.25 g of 2-(4-bromophenyl)-4,6-di-m-tolyl-1,3,5-triazine synthesized by the method of Reference Example 2 and 0.17 g of tetrakis(triphenylphosphine)palladium(0) therein was added to this solution and stirred under heating reflux for 3 hours. The reaction solution was concentrated under a reduced pressure and the thus obtained solid was recrystallized from dichloromethane-methanol. The thus obtained crude product was purified by a silica gel column chromatography (eluting solution hexane:dichloromethane=3:2 to 4:3) and then again recrystallized from dichloromethane-methanol to obtain a white solid of the intended 2-{4-[5-(4-tert-butylphenyl)pyridin-2-yl]phenyl}-4,6-di-m-tolyl-1,3,5-triazine (1.55 g, yield 94%). Its melting point is shown in Table 4. In this case, a distinct point of glass transition was not observed.

reactant | pentane | 5.3 ml | CCCCC | C5H12
reactant | tert-butyl lithium | 7.8 mmol | C(C)(C)(C)[Li]
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | 2-(4-bromophenyl)-4,6-di-m-tolyl-1,3,5-triazine | 1.25 g | BrC1=CC=C(C=C1)C1=NC(=NC(=N1)C=1C=C(C=CC1)C)C=1C=C(C=CC1)C | C23H18BrN3
reactant | 2-bromo-5-(4-tert-butylphenyl)pyridine | 1.13 g | BrC1=NC=C(C=C1)C1=CC=C(C=C1)C(C)(C)C | C15H16BrN
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-{4-[5-(4-tert-butylphenyl)pyridin-2-yl]phenyl}-4,6-di-m-tolyl-1,3,5-triazine | 1.55 g, yield 94% | C(C)(C)(C)C1=CC=C(C=C1)C=1C=CC(=NC1)C1=CC=C(C=C1)C1=NC(=NC(=N1)C=1C=C(C=CC1)C)C=1C=C(C=CC1)C | C38H34N4
